US07429609B2
4-Methoxy-3-[(E)-2-(pyridin-3-yl)-vinyl]-1-trityl-1H-indazole-5-carbonitrile
300 mg of 3-vinyl-4-methoxy-1-trityl-1H-indazole-5-carbonitrile and 180 μl of 3-bromopyridine were dissolved in a mixed solvent of 1 mL triethylamine/5 mL acetonitrile, added with 40 mg of tri-p-tolylphosphine and 27 mg of palladium acetate (II), and heated at 110° C. for 24 hours. The reaction solution was added with silica gel, the solvent was evaporated, and the resultant residue was purified by column chromatography (hexane:ethyl acetate=7:3), to afford 120 mg of the title compound as a pale yellow oil.

reactant | 3-vinyl-4-methoxy-1-trityl-1H-indazole-5-carbonitrile | 300 mg | C(=C)C1=NN(C2=CC=C(C(=C12)OC)C#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H23N3O
reactant | 3-bromopyridine | 180 μl | BrC=1C=NC=CC1 | C5H4BrN
reactant | tri-p-tolylphosphine | 40 mg | C1(=CC=C(C=C1)P(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | C21H21P
solvent | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 27 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-Methoxy-3-[(E)-2-(pyridin-3-yl)-vinyl]-1-trityl-1H-indazole-5-carbonitrile | 120 mg | COC1=C2C(=NN(C2=CC=C1C#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=C\C=1C=NC=CC1 | C35H26N4O
